US06844352B2
1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine], hydrochloride
1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] (10.3 g) and 2-propanole (100 ml) were heated to reflux. The solution was allowed to cool to 45° C. Aqueous hydrochloric acid (2.2 ml, 36%) was added dropwise and a precipitate of the title compound was formed. The suspension was heated to reflux and allowed to cool to ambient temperature. The suspension was cooled in ice, filtered off and dried. Yield: 10.1 g (90%). The salt is a mono salt and according to our investigations an anhydrate. KF: 0.51%; HPLC 100.8%; DSC (onset/peakmax) 222.5° C./223.8° C. CHN (calculated/measured): C: 73.38/73.13; H: 6.57/6.56; N: 5.70/5.80.

reactant | 1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine] | 10.3 g | FC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CCCCN1CCC2(CC1)OCC1=CC=CC=C12 | C30H31FN2O
reactant | hydrochloric acid | 2.2 ml | Cl | ClH
product | 1′-[4-[1-(4-fluorophenyl)-1H-indole-3-yl]-1-butyl]-spiro[isobenzofuran-1(3H),4′-piperidine], hydrochloride | Cl.FC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)CCCCN1CCC2(CC1)OCC1=CC=CC=C12 | InChI=1S/C30H31FN2O.ClH/c31-25-12-14-26(15-13-25)33-21-23(27-9-2-4-11-29(27)33)7-5-6-18-32-19-16-30(17-20-32)28-10-3-1-8-24(28)22-34-30;/h1-4,8-15,21H,5-7,16-20,22H2;1H
